US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4-(5-methyl-2-pyridyl)benzamide
Operations similar to Example 1 were conducted using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 4-(5-methyl-2-pyridyl)benzenecarboxylic acid, to provide the title compound as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 4-(5-methyl-2-pyridyl)benzenecarboxylic acid | CC=1C=CC(=NC1)C1=CC=C(C=C1)C(=O)O | C13H11NO2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4-(5-methyl-2-pyridyl)benzamide | C1(CC1)C=1N=C2N(C=C(C=C2)NC(C2=CC=C(C=C2)C2=NC=C(C=C2)C)=O)C1C | C24H22N4O
